US05710244
C. Preparation of Nicotinic acid-modified Calcitonin (ZP-5 or Nic-SCT)
The Nic-SCT (18 mg) was oxidized with DMSO to form an intramolecular disulfide bond. The disappearance of the reduced from of Nic-SCT was followed by Ellman's reagent. The inital concentration was 2 mg/ml in buffer solution (2% NH4HCO3, pH 8.0) containing 10% DMSO. The mixture was stirred overnight. The HPLC of the oxidized Nic-SCT showed a single peak, and the retention time (59% acetonitrile) was longer than that of the reduced form (55% acetonitrile). The oxidized Nic-SCT was found to be >95% pure based on HPLC. The total amount of pure peptide was 17 mg.

reactant | DMSO | CS(=O)C | C2H6OS
reactant | Ellman's reagent | C1=CC(=C(C=C1SSC2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O)C(=O)O)[N+](=O)[O-] | C14H8N2O8S2
solvent | acetonitrile | C(C)#N | C2H3N
product | Nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
